US08198456B2
Crude 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester (6.58 g), from Synthetic Example 21, was dissolved in THF (350 mL), under Argon, and a solution of TBAF in THF (1M, 28.5 mL) was added. The mixture was stirred overnight at room temperature. The mixture was quenched with saturated ammonium chloride solution, diluted with water and extracted with EtOAc. The combined organic extracts were washed with brine, dried and concentrated to give crude 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester which was used in the next step without further purification.

reactant | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester | 6.58 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO[Si](C)(C)C(C)(C)C | C29H40N6O3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 28.5 mL | C1CCOC1 | C4H8O
product | 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO | C23H26N6O3
